US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide
To a suspension of silica gel (6.0 g) in dichloromethane (20 mL) was added SOCl2 (1.5 mL) and the mixture was stirred at the room temperature for 1 h (gas was released from the reaction mixture). 3,4-Diamino-N-{4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-benzamide (707.0 mg, 2.0 mmol) and 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde (458.5 mg, 2.0 mmol) were added, and the resulting mixture was stirred at the room temperature for 4 h. After methanol (10 mL) was added, the reaction mixture was stirred at room temperature for another 1 h and was evaporated under reduced pressure. The residue on silica gel was purified by chromatography (250:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (528 mg, 47%). 1H NMR (MeOH-d4) δ 2.25 (s, 3H), 2.35-2.71 (12H), 3.94 (s, 3H), 6.96 (m, 1H), 7.00 (d, J=9 Hz, 1H), 7.11 (d, J=9 Hz, 2H), 7.50-7.60 (4H), 7.66 (d, J=9 Hz, 1H), 7.79 (d, J=9 Hz, 1H), 8.06 (d, J=7 Hz, 1H), 8.10 (s, 1H), 8.14 (s, 1H). ESI-MS m/z 563 (MH+).

reactant | SOCl2 | 1.5 mL | O=S(Cl)Cl | Cl2OS
reactant | 3,4-Diamino-N-{4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-benzamide | 2.0 mmol, 707.0 mg | NC=1C=C(C(=O)NC2=CC=C(C=C2)CCN2CCN(CC2)C)C=CC1N | C20H27N5O
reactant | 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde | 2.0 mmol, 458.5 mg | OC1=C(C=O)C=C(C=C1)C=1C(=NC=CC1)OC | C13H11NO3
reactant | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide | 528 mg, 47% | CN1CCN(CC1)CCC1=CC=C(C=C1)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C33H34N6O3
